US09382188B2
G) 3-cyclopropyl-3-(3-(((2-(2,2-dimethylpropyl)-2′-fluoro-5′-methoxybiphenyl-4-yl)amino)methyl)phenyl)propanoic acid
To a solution of ethyl 3-cyclopropyl-3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)propanoate (104 mg) in ethanol (2.0 mL) was added 2N aqueous sodium hydroxide solution (502 μL) at room temperature, and the mixture was stirred for 5 hr. The reaction mixture was further stirred at 50° C. for 1 hr, and the reaction mixture was cooled to 0° C. The mixture was neutralized with 1N hydrochloric acid, and extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure to give the title compound (88 mg) as a pale-yellow gummy substance.

reactant | ethyl 3-cyclopropyl-3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)propanoate | 104 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)CNC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C33H40FNO3
reactant | sodium hydroxide | 2N, 502 μL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 2.0 mL | C(C)O | C2H6O
product | 3-cyclopropyl-3-(3-(((2-(2,2-dimethylpropyl)-2′-fluoro-5′-methoxybiphenyl-4-yl)amino)methyl)phenyl)propanoic acid | 88 mg | C1(CC1)C(CC(=O)O)C1=CC(=CC=C1)CNC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C31H36FNO3
